US06110924
d) Preparation of 5-(4'-phenoxyphenyl)barbituric acid
A solution of sodium ethoxide (0.27 g) in 3 ml of anhydrous ethanol is added with 0.657 g of ethyl (4'-phenoxyphenyl)acetate dissolved in 5 ml of ethanol, then with urea (0.18 g). The reaction mixture is refluxed for 2 hours 30 minutes, then it is cooled to room temperature and the suspended solid is filtered. The solid is redissolved in 8 ml of water and the solution is acidified with 1 N hydrochloric acid. The solid which separates is recovered by filtration to give 0. 165 g of the product, m.p. >240° C.

reactant | sodium ethoxide | 0.27 g | [O-]CC.[Na+]
reactant | ethyl (4'-phenoxyphenyl)acetate | 0.657 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC(=O)OCC | C16H16O3
reactant | urea | 0.18 g | NC(=O)N | CH4N2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-(4'-phenoxyphenyl)barbituric acid | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1C(NC(NC1=O)=O)=O | C16H12N2O4
